US06284757B1
(7S,8aS)-7-(3-Cyanophenoxy)methyl-2-(5-cyanopyridin-2-yl)-1,2,3,4,6,7,8,8a-octahydro-pyrrolo[1,2-a]pyrazine
The (7S,8aS)-7-hydroxymethyl-2-(5-cyanopyridin-2-yl)-1,2,3,4,6,7,8,8a-octahydro-pyrrolo[1,2-a]pyrazine, 1.6 g (13.4 mmol) of 3-cyanophenol, and 2.8 g (11 mmol) of triphenylphosphine were dissolved in 20 mL of dry THF, the solution was treated with 1.7 mL (11 mmol) of diethyl azodicarboxylate (DEAD), and the reaction stirred at ambient temperature for 16 hours. The solvent was evaporated, the residue taken up in ethyl acetate, and washed with 1M NaOH (sodium hydroxide). The organic phase was extracted with 1M HCl (3×), and the aqueous acid was washed with ethyl acetate (1×). The aqueous phase was made basic with 1M NaOH, extracted with ethyl acetate (3×), and the combined organic phase dried (magnesium sulfate), filtered and evaporated. Purification by flash silica gel chromatography with 75:25 ethyl acetate:hexane gave 0.603 g (19%) of the title compound. Mp (.HCl) 197-200° C. HRMS calc'd for C21H22N5O (MH+): 360.1824, found: 360.1802.

reactant | (7S,8aS)-7-hydroxymethyl-2-(5-cyanopyridin-2-yl)-1,2,3,4,6,7,8,8a-octahydro-pyrrolo[1,2-a]pyrazine | OC[C@H]1C[C@@H]2N(CCN(C2)C2=NC=C(C=C2)C#N)C1 | C14H18N4O
reactant | 3-cyanophenol | 13.4 mmol, 1.6 g | C(#N)C=1C=C(C=CC1)O | C7H5NO
reactant | triphenylphosphine | 11 mmol, 2.8 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 11 mmol, 1.7 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | (7S,8aS)-7-(3-Cyanophenoxy)methyl-2-(5-cyanopyridin-2-yl)-1,2,3,4,6,7,8,8a-octahydro-pyrrolo[1,2-a]pyrazine | 0.603 g, 19% | C(#N)C=1C=C(OC[C@H]2C[C@@H]3N(CCN(C3)C3=NC=C(C=C3)C#N)C2)C=CC1 | C21H21N5O
